US08058045B2
N-(5-Bromo-4-(1-methylpiperidin-4-ylamino)pyridin-2-yl)pivalamide
A solution of N-(5-bromo-4-chloropyridin-2-yl)pivalamide (0.547 g, 1.87 mmol), 1-methylpiperidin-4-amine (0.600 g, 5.25 mmol) in NMP (3.3 mL) was heated under nicrowave irradiation for 3 hr at 220° C. The crude mixture was purified by flash chromatography on silica, eluting with methanol and dichloromethane (1/9), to give the title compound as a colourless oil (0.684 g, 99%).

reactant | N-(5-bromo-4-chloropyridin-2-yl)pivalamide | 1.87 mmol, 0.547 g | BrC=1C(=CC(=NC1)NC(C(C)(C)C)=O)Cl | C10H12BrClN2O
reactant | 1-methylpiperidin-4-amine | 5.25 mmol, 0.600 g | CN1CCC(CC1)N | C6H14N2
solvent | NMP | 3.3 mL | CN1CCCC1=O | C5H9NO
product | N-(5-Bromo-4-(1-methylpiperidin-4-ylamino)pyridin-2-yl)pivalamide | 0.684 g, 99% | BrC=1C(=CC(=NC1)NC(C(C)(C)C)=O)NC1CCN(CC1)C | C16H25BrN4O
